Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
naproxen / ___ pig
 
Attending: ___.
 
Chief Complaint:
CC: shortness of breath

Reason for MICU Transfer: severe asthma exacerbation with poor 
respiratory effort and air movements, as well as changes in 
mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Ms. ___ ia a ___ year old female with a past medical 
history of pulmonary nodules, bronchietctasis and asthma who 
presented with shortness of breath and concern for asthma 
exacerbation. She has had several hospitalizations for asthma 
(last in ___, previously requiring bipap, but has 
never been intubated. On this admission she reports 4 days of 
gradually worsening shortness of breath with wheezing. Possible 
triggers include a friend who also has asthma and was recently 
hospitalized who she shared a nebulizer machine with, cleaning 
agents used 6 days prior to admission, smoking of 8 cigarettes 
about 2 weeks ago. She has had no relief with 3 days of oral 
prednisone (60mg/50mg/50mg) and multiple albuterol nebulizations 
at home. She took her Albuterol nebulizer x3 and prednisone 50 
mg at home this morning, then presented to Dr. ___ 
where she recieved Combivent nebulizers x2 and 2g of magnesium. 
Dr. ___ her to the ED.  

Per the patient, this presentation is identical to prior asthma 
exacerbations. She endorses a cough but denies any sputum 
production. She denied palpitations, chest pain, fevers or 
chills, URI symptoms, lower extremity edema or calf pain, prior 
DVT or PE, headache, change in vision, neck pain, abdominal 
pain, dysuria, change in bowel movements, or rash. No recent 
travels. No known immunocompromise.  

She presented to the ED with a respiratory rate of 18, SpO2 98% 
on room air, in no apparent respiratory distress but with 
symmetric wheezing. No lower extremity edema or calf pain.  
 
In the ED, initial vitals: 98.6 98 153/15 18 100% neb. In the ED 
she recieved:  Albuterol 0.083% Neb Soln Today x3, Ipratropium 
Bromide Neb 2.5mL x2, Azithromycin 500mg x1 IV. Vitals prior to 
transfer: 98.0 93 148/101 25 98%.

Overnight the team gave her MethylPREDNISolone Sodium Succ 125 
mg IV Q6H, albuterol nebs Q4 standing, ipratropium Q6h standing, 
and albuterol Q2hprn. This morning, patient was found to have 
decompensated, with poor respiratory effort and air movement, as 
well as changes in mental status suggestive of respiratory 
distress. Even after 2 albuterol nebs over 45minutes, patient 
was tripoding, unable to speak more than 3 words at a time, and 
breathing through pursed lips. Her mental status did improve 
with the 2 nebs. She was transferred to the ICU for more 
aggressive management of her asthma, and possible Bipap 
initiation.
 
ROS: per HPI. No fevers, chest pain, abdominal pain, pain with 
urinate, joint pain, rashes. 
 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
- Asthma (diagnosed in ___  
- Brochiectasis  
- Pulmonary nodules (detected in ___, follow-up CT in ___ 
showed no progression)  
- positive PPD
 
Social History:
___
Family History:
FAMILY HISTORY:  Grandmother had asthma. Father had ___, 
HTN, and died of Stomach cancer. Mother had HTN and uterine 
cancer. Daughter has ___.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS - Temp 98.1 ___ 98%RA 
GENERAL - in respiratory distress, speaking only 3 words at a 
time, pursed lips, tripoding
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, dryMM, OP clear  

NECK - supple, no thyromegaly, no JVD, no lymphadenopathy  
HEART - borderline tachycardic, reg rhythm, nl S1-S2, no MRG  
LUNGS - + inspiratory and expiratory wheezes bilaterally, 
respiration labored, using abdomen and neck muscles, 
+non-productive cough  
ABDOMEN - soft/NT/ND, no rebound/guarding  
EXTREMITIES - WWP, no edema, 2+ radial and DP pulses  
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, moving all extremities

DISCHARGE PHYSICAL EXAM
VS: Tm 98.3 ___ 83 18 98% RA
PF 275
GENERAL: NAD, alert, interactive
HEENT: NC/AT, sclerae anicteric, MMM
LUNGS: Expiratory wheezing but decreased from prior.  Air 
movement today is increased since yesterday. 
HEART: Normal rate, regular rhythm.  No m/r/g
ABDOMEN: NABS, soft/NT/ND. 
EXTREMITIES: WWP
NEURO: awake, A&Ox3

 
Pertinent Results:
ADMISSION LABS

pH 7.36 pCO2 46 pO2 135 HCO3 27 BaseXS 0  Type:Art Lactate:4.0

140  102  15   
---------------< 129
4.5  28  0.8  

Ca: 9.3 Mg: 1.9 P: 4.5

MCV 87 
WBC 9.1 hgb 13.2 hct 41.6 plt 360 

DISCHARGE LABS
___ 06:13AM BLOOD WBC-16.0* RBC-4.64 Hgb-12.8 Hct-39.7 
MCV-86 MCH-27.6 MCHC-32.3 RDW-13.9 Plt ___
___ 06:27AM BLOOD Glucose-83 UreaN-19 Creat-0.8 Na-139 
K-3.9 Cl-96 HCO3-32 AnGap-15
___ 06:27AM BLOOD Calcium-8.9 Phos-3.0 Mg-2.1
    
IMAGING: 
___ CXR:
IMPRESSION:   Subtle opacity overlying the medial right lung 
base, which most likely reflects overlying breast tissue.  If 
clinically indicated, could obtain lateral radiograph for 
further characterization. 

___ CXR:
CONCLUSION: 
Minimal left lower lobe opacity is probably due to 
superimposition of breast tissue.  Standard PA and lateral views 
may be helpful to exclude a pneumonia in this region, if 
warranted clinically. 

___ CTA CHEST:
Prelim read:
IMPRESSION:

1.    No  pulmonary  embolism.    
2.    Bronchial  wall  thickening  and  mucoid  impaction with  
multiple  pulmonary  nodules.    Followup  CT  in  12  months  
for  pulmonary
nodules  is  recommended  in  a  high-risk  patient.
 
Brief Hospital Course:
___ woman with asthma admitted with severe asthma exacerbation. 


# Severe asthma exacerbation / hypercarbic respiratory failure:  
Patient admitted to the floor initially and placed on IV 
solumedrol with scheduled nebs.  She decompensated overnight on 
the night of admission and was sent to the MICU where she was 
started on BiPAP. ___ and her outpatient pulmonologist were 
consulted; per their recommendations she received 5 day course 
of azithromycin.  She was continued on BiPAP overnight with wean 
to face-mask on ___. She continued to have diffuse wheezes 
throughout on ___ intially requiring continuous nebs. She was 
then weaned to q2h albuterol nebs and then she was successfully 
weaned to NC and albuterol nebs were spaced throughout the day 
on ___. On transfer to the floor, the patient remained 
diffusely wheezy but with decreased work of breathing and O2 
sats ranging 96-100% on 4L NC. CXR did not show any clear 
evidence of pneumonia; she was found to have a patchy opacity in 
the LLL but this was re-evaluated several times and thought to 
be actually overlying breast tissue.  She had a CTA which showed 
no PE, but did have some bronchial thickening and linear 
atelectasis at the bases.  Her steroids were changed to oral 
prednisone 60mg daily on ___ with plan for steroid taper by 
10mg q3days, to be held at 10mg daily.

# Hypertension:  During this admission, she was hypertensive 
with SBP 170s in the setting of getting albuterol and steroids.  
She received IV labetalol while in the MICU with good response. 
Her hypertension improved with decreasing albuterol and steroid 
requirements. Longer-term antihypertensive therapy was discussed 
with the patient but introduction of additional medications was 
deferred at this time per patient's wishes.  On discharge, her 
blood pressures were ranging 130s-150s.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pulmicort *NF* (budesonide) 180 mcg Inhalation once daily 
2. Symbicort *NF* (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation BID 
3. Albuterol 0.083% Neb Soln 1 NEB IH BID 
4. Montelukast Sodium 10 mg PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH BID 
2. Montelukast Sodium 10 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. PredniSONE 60 mg PO DAILY 
7. Vitamin D 800 UNIT PO DAILY steroid treatment 
RX *ergocalciferol (vitamin D2) 400 unit 2 tablet(s) by mouth 
daily Disp #*60 Tablet Refills:*0
8. Calcium Carbonate 1250 mg PO DAILY steroid treatment 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0
9. Pulmicort *NF* (budesonide) 180 mcg Inhalation once daily 
10. Symbicort *NF* (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation BID 
11. PredniSONE 50 mg PO DAILY Duration: 3 Days 
Take 3 days: ___ 
Tapered dose - DOWN 
12. PredniSONE 40 mg PO DAILY Duration: 3 Days 
Take 3 days: ___ 
Tapered dose - DOWN 
13. PredniSONE 30 mg PO DAILY Duration: 3 Days 
Take 3 days: ___ 
Tapered dose - DOWN 
14. PredniSONE 20 mg PO DAILY Duration: 3 Days 
Take 3 days: ___ 
Tapered dose - DOWN 
15. PredniSONE 10 mg PO DAILY 
Start ___ and continue until directed by your doctor 
___ dose - DOWN 
RX *prednisone 10 mg 6 tablet(s) by mouth daily Disp #*100 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Asthma exacerbation

SECONDARY: Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you while you were admitted at 
___.  You were admitted due to an asthma exacerbation.  You 
were given nebs, intravenous steroids, and antibiotics.  Your 
exacerbation became so severe that you had to go to the 
intensive care unit, where you were placed on non-invasive BiPap 
ventilation for a short period of time.  You were eventually 
weaned off of this and subsequently weaned off of all 
supplemental oxygen.  Your steroids were switched to oral and 
you finished your antibiotic course.  You had a CT scan of your 
chest which showed no clots and did show some thickening of your 
bronchioles (airways, consistent with your known lung disease), 
as well as several nodules that will need to be followed.  You 
were significantly improved and were discharged.

You will go home with a steroid taper, then will stay on a lower 
dose of steroids indefinitely until you see Dr. ___.
 
Followup Instructions:
___